US09388176B2
t-Butyl-2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine-6-carboxylate
A suspension of t-Butyl-3-[(dimethylamino)methylidene]-4-oxopiperidine-1-carboxylate (10.95 g, 43.05 mmol) and 2-methyl-2-thiopseudourea hemisulfate (7.79 g, 55.97 mmol) in water (175 ml) was treated with 1.0 N NaOH(aq.) (46.63 ml, 46.63 mmol) and the reaction mixture was heated at 75° C. for 2.5 hours. The aqueous mixture was extracted with dichloromethane and the organic extract was dried (MgSO4), filtered, and concentrated. Elution through a flash column (silica gel 60, 230-400 mesh, 7:3 hexanes:EtOAc) gave the title compound as a yellow oil (4.45 g, 37%).

reactant | t-Butyl-3-[(dimethylamino)methylidene]-4-oxopiperidine-1-carboxylate | 43.05 mmol, 10.95 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CN(C)C | C13H22N2O3
reactant | 2-methyl-2-thiopseudourea hemisulfate | 55.97 mmol, 7.79 g | S(=O)(=O)(O)O.CSC(N)=N.CSC(N)=N
reactant | NaOH | 46.63 mmol, 1.0 N, 46.63 ml | [OH-].[Na+]
solvent | water | 175 ml | O | H2O
product | t-Butyl-2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine-6-carboxylate | 4.45 g, 37% | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)SC)CC1 | C13H19N3O2S
